US08980911B2
3,5-Dichloro-4-({5-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-methylbenzamide was prepared using N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide and 2,6-dichloro-4-(methylcarbamoyl)benzene carbonyl chloride (Compound No. 20).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide | N1C=CC=2C1=CN=C(C2)NC(=O)C2CC2 | C11H11N3O
reactant | 2,6-dichloro-4-(methylcarbamoyl)benzene carbonyl chloride | ClC1=C(C(=CC(=C1)C(NC)=O)Cl)C(=O)Cl | C9H6Cl3NO2
product | 3,5-Dichloro-4-({5-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-methylbenzamide | ClC=1C=C(C(=O)NC)C=C(C1C(=O)C1=CNC2=CN=C(C=C21)NC(=O)C2CC2)Cl | C20H16Cl2N4O3
